US07888364B2
270 mg of 4-(2-bromoethylsulfonyl)benzonitrile was used in Procedure P with 4-methylimidazole to yield 4-(2-(4-methyl-1H-imidazole-1-yl)ethylsulfonyl)benzonitrile. 320 mg of 4-(2-(4-methyl-1H-imidazole-1-yl)ethylsulfonyl)benzonitrile was reacted via Procedure T to give 4-(2-(4-methyl-1H-imidazole-1-yl)ethylsulfonyl)benzoic acid.

reactant | 4-(2-bromoethylsulfonyl)benzonitrile | 270 mg | BrCCS(=O)(=O)C1=CC=C(C#N)C=C1 | C9H8BrNO2S
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
product | 4-(2-(4-methyl-1H-imidazole-1-yl)ethylsulfonyl)benzonitrile | CC=1N=CN(C1)CCS(=O)(=O)C1=CC=C(C#N)C=C1 | C13H13N3O2S
